US05610165
Trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N(2-methoxybenzyl)-N-methylamino)ethylaminocarbonyl)-4-(RS)-(N,N-dibenzylaminocarbonyl)piperidine
According to the procedure given in Example 2, Step E, 0.051 g of trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl)-N-methylamino)ethylaminocarbonyl)-piperidine-4-(RS)-carboxylic acid and 0.035 g of dibenzylamine gave 22 mg (33%) of an oil.

reactant | trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl)-N-methylamino)ethylaminocarbonyl)-piperidine-4-(RS)-carboxylic acid | 0.051 g | ClC=1C=C(C=CC1)N(C(=O)N1[C@H](C[C@@H](CC1)C(=O)O)C(=O)NCCN(C)CC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C31H35ClN4O5
reactant | dibenzylamine | 0.035 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
product | Trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N(2-methoxybenzyl)-N-methylamino)ethylaminocarbonyl)-4-(RS)-(N,N-dibenzylaminocarbonyl)piperidine | 22 mg, 33% | ClC=1C=C(C=CC1)N(C(=O)N1[C@H](C[C@@H](CC1)C(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)NCCN(C)CC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C45H48ClN5O4
